### PR TITLE
feat(ErdosProblems): 241

### LINKED ISSUE #439: Erdős Problem 241
### What is the conjecture
    
https://www.erdosproblems.com/241

  Let $f(N)$ be the maximum size of $A\subseteq \\{1,\ldots,N\\}$ such that the sums $a+b+c$ with $a,b,c\in A$ are all distinct (aside from the trivial coincidences). Is it true that 
$$f(N)\sim N^{1/3}?$$

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by danielchin**
Closes #439 

Formalizes Erdos Problem 241: https://www.erdosproblems.com/241

Assisted by Gemini/Antigravity

### CODE REVIEW

File: FormalConjectures/ErdosProblems/241.lean [hunk 1]
```diff
@@ -0,0 +1,100 @@
...
+namespace Erdos241
+
+/--
+Let $f(N)$ be the maximum size of $A\subseteq \{1,\ldots,N\}$ such that the sums $a+b+c$ with
+$a,b,c\in A$ are all distinct (aside from the trivial coincidences).
+
+Formalization note: this is generalized to allow for different $r$.
+-/
+noncomputable def f (N r : ℕ) : ℕ :=
+  let candidates := (Icc 1 N).powerset.filter (fun A ↦
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/241.lean]: (so this gets inlined!)
```suggestion
  letI candidates := (Icc 1 N).powerset.filter (fun A ↦
```

File: FormalConjectures/ErdosProblems/241.lean [hunk 2]
```diff
@@ -0,0 +1,100 @@
...
+(note that $(7/2)^{1/3}\approx 1.519$).
+-/
+@[category research solved, AMS 5]
+theorem erdos_241.variants.upper_bound :
+    ∃ ε : ℕ → ℝ, ε =o[atTop] (fun _ ↦ (1 : ℝ)) ∧
+    ∀ᶠ N in atTop, (f N 3 : ℝ) ≤ ((7 / 2 : ℝ) ^ ((1 : ℝ) / 3) + ε N) * (N : ℝ) ^ ((1 : ℝ) / 3) := by
+  sorry
+
+/--
+More generally, Bose and Chowla conjectured that the maximum size of $A\subseteq \{1,\ldots,N\}$
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/241.lean]:
```suggestion
More generally, Bose and Chowla [BoCh62] conjectured that the maximum size of $A\subseteq \{1,\ldots,N\}$
```

File: FormalConjectures/ErdosProblems/241.lean [hunk 3]
```diff
@@ -0,0 +1,100 @@
...
+with all $r$-fold sums distinct (aside from the trivial coincidences) then
+$\lvert A\rvert \sim N^{1/r}.$
+-/
+@[category research open, AMS 5]
+theorem erdos_241.variants.generalization :
+    ∀ (r : ℕ), r ≥ 2 → (fun N ↦ (f N r : ℝ)) ~[atTop] (fun N ↦ (N : ℝ) ^ ((1 : ℝ) / r)) := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/241.lean]:
```suggestion
theorem erdos_241.variants.generalization (r : ℕ) (hr : 2 ≤ r) :
    (fun N ↦ (f N r : ℝ)) ~[atTop] (fun N ↦ (N : ℝ) ^ ((1 : ℝ) / r)) := by
```

File: FormalConjectures/ErdosProblems/241.lean [hunk 4]
```diff
@@ -0,0 +1,100 @@
...
+  sorry
+
+/--
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/241.lean:97]: For the two last problems, how about the following: define a predicate (using `def` that depends on `r`) and then you 1) state it holds for all `r` at least 2 in `erdos_241.variants.generalization` and 2) state it holds for `r = 2` in the latter theorem.

**Review by Paul-Lez — COMMENTED** [review]
Thanks for the contribution!

File: FormalConjectures/ErdosProblems/241.lean [hunk 5]
```diff
@@ -0,0 +1,106 @@
...
+More generally, Bose and Chowla [BoCh62] conjectured that the maximum size of
+$A\subseteq \{1,\ldots,N\}$ with all $r$-fold sums distinct (aside from the trivial coincidences)
+then $\lvert A\rvert \sim N^{1/r}.$
+-/
+@[category research open, AMS 5]
+theorem erdos_241.variants.generalization :
+    ∀ r, r ≥ 2 → BoseChowlaConjecture r := by
+  sorry
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/241.lean:95]:
```suggestion
@[category research open, AMS 5]
theorem erdos_241.variants.generalization (r : ℕ) (hr : r ≥ 2) :  BoseChowlaConjecture r := by
  sorry
```

**Review by Paul-Lez — APPROVED** [review]
Thanks!

**Review by Paul-Lez — APPROVED** [review]
